US06054587
A mixture of 4,5-dimethyl-2-oxo-1,3-dioxolene (1 mmol) and selenium dioxide (2.5 mmol) in dioxane was heated at reflux for 1 h. Evaporation, extraction and chromatography gave 5-methyl-4-hydroxymethyl-2-oxo-1,3-dioxolene as a yellow oil. TLC: Rf=0.5, 5% MeOH-dichloromethane.

reactant | 4,5-dimethyl-2-oxo-1,3-dioxolene | 1 mmol | CC=1OC(OC1C)=O | C5H6O3
reactant | selenium dioxide | 2.5 mmol | [Se](=O)=O | O2Se
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-methyl-4-hydroxymethyl-2-oxo-1,3-dioxolene | CC1=C(OC(O1)=O)CO | C5H6O4
